US03989689
The mixture of 5.0 g of 7-fluoro-1-methyl-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester, 2.3 g of 4-fluoroaaniline and 120 ml of xylene is refluxed under nitrogen for 40 hours, cooled with ice and diluted with 65 ml of petroleum ether. The precipitate formed is filtered off and recrystallized from acetonitrile, to yield the 7-fluoro-1-methyl-4-(4-fluorophenylcarbamoyl)-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione melting at 180°-182°.

reactant | 7-fluoro-1-methyl-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester | 5.0 g | COC(=O)C1CC(N(C2=C(C1=O)C=C(C=C2)F)C)=O | C13H12FNO4
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-fluoro-1-methyl-4-(4-fluorophenylcarbamoyl)-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione | FC=1C=CC2=C(C(C(CC(N2C)=O)C(NC2=CC=C(C=C2)F)=O)=O)C1 | C18H14F2N2O3
